US08034938B2
tert-Butyl (2S)-3-{[tert-butyl(dimethyl)silyl]oxy}-2-[(3-nitroquinolin-4-yl)amino]propylcarbamate (4.84 g, 10.1 mmol) was dissolved in 150 mL of toluene and the solution was placed in a pressure bottle. Platinum on carbon (5%, 680 mg) was then added and the reaction mixture was shaken under H2 at 52 PSI (3.6×105 Pa). After 8 hours, the reaction mixture was then filtered through a pad of CELITE filter agent. The pad was rinsed with 2-propanol and the combined filtrates were concentrated under reduced pressure to give tert-butyl (2S)-2-[(3-aminoquinolin-4-yl)amino]-3-{[tert-butyl(dimethyl)silyl]oxy}propylcarbamate (4.51 g) as a brown foam.

reactant | tert-Butyl (2S)-3-{[tert-butyl(dimethyl)silyl]oxy}-2-[(3-nitroquinolin-4-yl)amino]propylcarbamate | 10.1 mmol, 4.84 g | [Si](C)(C)(C(C)(C)C)OC[C@H](CNC(OC(C)(C)C)=O)NC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-] | C23H36N4O5Si
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Platinum on carbon | 680 mg | [Pt] | Pt
product | tert-butyl (2S)-2-[(3-aminoquinolin-4-yl)amino]-3-{[tert-butyl(dimethyl)silyl]oxy}propylcarbamate | 4.51 g | NC=1C=NC2=CC=CC=C2C1N[C@@H](CNC(OC(C)(C)C)=O)CO[Si](C)(C)C(C)(C)C | C23H38N4O3Si
